US04886814
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 14 by reaction of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine with concentrated ammonia followed by purification of the base on a silica gel column using methylene chloride/methanol=9:1 as eluant.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C18H21F3N2O4S
reactant | ammonia | N | H3N
product | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | NC(=O)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C17H20F3N3O3S
